US07915267B2
To a solution of 2-amino-5-methoxybenzamide (1.50 g, 9.03 mmol) and triethylamine (1.00 g, 9.93 mmol) in THF (40 mL) was added dropwise ethyl chloroglyoxylate (1.36 g, 9.93 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the precipitated insoluble material was collected by filtration. The filtered cake was washed with water and ethanol to give ethyl ((2-(aminocarbonyl)-4-methoxyphenyl)amino)(oxo)acetate as a pale-yellow powder (2.42 g, 100%).

reactant | 2-amino-5-methoxybenzamide | 9.03 mmol, 1.50 g | NC1=C(C(=O)N)C=C(C=C1)OC | C8H10N2O2
reactant | triethylamine | 9.93 mmol, 1.00 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroglyoxylate | 9.93 mmol, 1.36 g | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | Water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | ethyl ((2-(aminocarbonyl)-4-methoxyphenyl)amino)(oxo)acetate | 2.42 g, 100% | NC(=O)C1=C(C=CC(=C1)OC)NC(C(=O)OCC)=O | C12H14N2O5
